US04937268
[[4-[(6-Bromohexyl)oxy]butyl]thio]benzene
4-(Phenylthio)-1-butanol (5.25 g), 1,6-dibromohexane (21.08 g), TAB (1 g) and 40% sodium hydroxide solution (45 ml) were stirred together at room temperature for 18 h. The mixture was diluted with water (150 ml), extracted with diethyl ether (2×150 ml), the organic layer washed with brine (100 ml), dried and evaporated in vacuo to give an oil. Purification by FCC eluting with System A (0:20→1:19) gave the title compound (5.54 g) as a colourless oil. T.l.c. (System A 1:9) Rf 0.12.

reactant | 4-(Phenylthio)-1-butanol | 5.25 g | C1(=CC=CC=C1)SCCCCO | C10H14OS
reactant | 1,6-dibromohexane | 21.08 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 45 ml | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | [[4-[(6-Bromohexyl)oxy]butyl]thio]benzene | 5.54 g | BrCCCCCCOCCCCSC1=CC=CC=C1 | C16H25BrOS
